US09108944B2
A mixture of 5-(5-(4-amino-3-hydroxyphenyl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-7-yl)-3-(trifluoromethyl)picolinonitrile (60 mg, 0.14 mmol) and triethylorthoformate (0.050 mL, 0.28 mmol) in anhydrous DMF (1 mL) was heated at 100° C., 1 h. The mixture was diluted with water, extracted with EtOAc (3×), the organics combined and washed with water (2×), brine, dried (MgSO4) and concentrated. Purification by column chromatography, eluting with 30% EtOAc/hexanes provided 23 mg of 5-(5-(benzo[d]oxazol-6-yl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-7-yl)-3-(trifluoromethyl)picolinonitrile as a pale yellow solid. 1H NMR (300 MHz, DMSO-d6) δ 9.24 (d, 1H), 8.95 (s, 1H), 8.78 (d, 1H), 8.05 (d, 1H), 7.94 (d, 1H), 7.45 (dd, 1H), 2.74-2.61 (m, 2H), 2.59-2.47 (m, 2H), 2.03-1.90 (m, 1H), 1.61-1.48 (m, 1H). LCMS [M+1]+ 444.0.

reactant | 5-(5-(4-amino-3-hydroxyphenyl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-7-yl)-3-(trifluoromethyl)picolinonitrile | 0.14 mmol, 60 mg | NC1=C(C=C(C=C1)N1C2(CCC2)C(N(C1=S)C=1C=C(C(=NC1)C#N)C(F)(F)F)=O)O | C19H14F3N5O2S
reactant | triethylorthoformate | 0.28 mmol, 0.050 mL | C(C)OC(OCC)OCC | C7H16O3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(5-(benzo[d]oxazol-6-yl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-7-yl)-3-(trifluoromethyl)picolinonitrile | 23 mg | O1C=NC2=C1C=C(C=C2)N2C1(CCC1)C(N(C2=S)C=2C=C(C(=NC2)C#N)C(F)(F)F)=O | C20H12F3N5O2S
